### PR TITLE
renaming of lemmas for classical reasoning

### LINKED ISSUE #228: move to boolp
`forallN`, `eqNNP`, and `existsN` from 

https://github.com/math-comp/analysis/blob/f5324c0122537ceaf653a02621158232d9cec982/theories/normedtype.v#L451-L468

should be moved to `boolp.v` near `existsPN`, `existsNP`. `forallNP`, `forallPN`

https://github.com/math-comp/analysis/blob/f5324c0122537ceaf653a02621158232d9cec982/theories/boolp.v#L556-L582

Wanted: better names.

### PR DESCRIPTION
**Pull request by affeldt-aist**
fixes #228

### CODE REVIEW

File: theories/boolp.v [hunk 1]
```diff
@@ -553,42 +553,47 @@ apply: (asbool_equiv_eqP existsp_asboolPn);
...
+
+Lemma not_existsP T (P : T -> Prop) :
+  (exists x : T, P x) <-> ~ forall x : T, ~ P x.
+Proof. by rewrite forallNE eqNN. Qed.
+
+Lemma forallNP T (P : T -> Prop) :
+  (forall x : T, ~ P x) <-> ~ exists x : T, P x.
+Proof. by rewrite forallNE. Qed.
+
+Lemma _not_forallP T (P : T -> Prop) :
```
Comment (CohenCyril) [inline theories/boolp.v:594]:
```suggestion
Lemma not_forallP T (P : T -> Prop) :
```

File: theories/boolp.v [hunk 2]
```diff
@@ -553,42 +553,47 @@ apply: (asbool_equiv_eqP existsp_asboolPn);
...
+Lemma not_implyE (P Q : Prop) : (~ (P -> Q)) = (P /\ ~ Q).
+Proof. by rewrite propeqE not_implyP. Qed.
 
-Lemma forallNP (T : Type) (P : T -> Prop) :
-  (forall x : T, ~ P x) <-> (~ exists x : T, P x).
-Proof.
-split => [h [x Px]|/asboolP]; [exact: (h x)|].
-by rewrite asbool_neg => /forallp_asboolPn.
-Qed.
+Lemma orC (P Q : Prop) : (P \/ Q) = (Q \/ P).
```
Comment (CohenCyril) [inline theories/boolp.v:565]: while you're at it, could you add `andC` if it's not already here.

Comment (CohenCyril) [reply theories/boolp.v:565]: (and add it to the changelog ;))
